US03941841
4,8-Dimethyl-10-(4-Oxo-2,6,6-Trimethyl-2-Cyclohexenylidene)-2,4,6,8-Decatetraenal
2 g. of pure 4,8-dimethyl-10-(4-oxo-2,6,6-trimethyl-2-cyclohexenylidene)-2,4,8-decatrien-6-ynal in 50 ml. of benzene was hydrogenated in the presence of 0.5 g. of Lindlar catalyst and 0.5 ml. of a 1% solution of quinoline in acetone. After consumption of 240 ml. of hydrogen, which took place within 21/2 hours, the suspension was filtered and concentrated. The residue crystallized only partially after chromatography on 200 g. of silica gel G with benzene ethyl ether in a volume ratio of 3:2.

reactant | 4,8-dimethyl-10-(4-oxo-2,6,6-trimethyl-2-cyclohexenylidene)-2,4,8-decatrien-6-ynal | CC(C=CC=O)=CC#CC(=CC=C1C(=CC(CC1(C)C)=O)C)C | C21H24O2
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | quinoline | N1=CC=CC2=CC=CC=C12 | C9H7N
catalyst | Lindlar catalyst | [Pd].CC(=O)[O-].CC(=O)[O-].[Pb+2]
solvent | acetone | CC(=O)C | C3H6O
product | 4,8-Dimethyl-10-(4-Oxo-2,6,6-Trimethyl-2-Cyclohexenylidene)-2,4,6,8-Decatetraenal | CC(C=CC=O)=CC=CC(=CC=C1C(=CC(CC1(C)C)=O)C)C | C21H26O2
